US05409943
(b) N-[3-(2,6-Dichlorobenzyloxy)pyrid-2-yl]-N'-phenylguanidine
A mixture of yellow mercuric oxide (0.62 g, 0.0029 mol), N-[3-(2-,6-dichlorobenzyloxy)pyrid-2-yl]-N'-phenylthiourea (1.0 g, 0.0025 mol) and methanolic ammonia solution (30 ml) was stirred for 15 hours at room temperature. The solvent was removed in vacuo and the black residue was boiled with chloroform and filtered hot. Evaporation of the solvent followed by recrystallisation from ethanol gave the desired product. Yield 0.33 g (55%), m.p. 163°-165 ° C.

reactant | N-[3-(2-,6-dichlorobenzyloxy)pyrid-2-yl]-N'-phenylthiourea | 0.0025 mol, 1.0 g | ClC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=CC=C2)C(=CC=C1)Cl | C19H15Cl2N3OS
reactant | ammonia | 30 ml | N | H3N
product | N-[3-(2,6-Dichlorobenzyloxy)pyrid-2-yl]-N'-phenylguanidine | ClC1=C(COC=2C(=NC=CC2)NC(=N)NC2=CC=CC=C2)C(=CC=C1)Cl | C19H16Cl2N4O
